US07223769B2
In 4 ml of tetrahydrofuran was suspended 0.11 g of sodium hydride (60% in oil), to which 0.5 ml of a solution containing 0.23 g of 4-methyl-2-pentanol in tetrahydrofuran was added dropwise at room temperature, followed by stirring for 10 minutes. To this was added dropwise 0.5 ml of a solution containing 0.3 g of 4,6-dichloropyrimidine in tetrahydrofuran at 0° C., followed by stirring at the same temperature for 2 hours and further stirring at room temperature for 4 hours. The reaction mixture was then poured into a saturated aqueous ammonium chloride solution, which was extracted three times with t-butyl methyl ether. The combined organic layers were washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate to give a crude product of 4-chloro-6-(1,3-dimethylbutoxy)pyrimidine.

reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | 4-methyl-2-pentanol | 0.23 g | CC(CC(C)O)C | C6H14O
reactant | 4,6-dichloropyrimidine | 0.3 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | 4-chloro-6-(1,3-dimethylbutoxy)pyrimidine | ClC1=NC=NC(=C1)OC(CC(C)C)C | C10H15ClN2O
